US04500526
7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-{(5-thiazolo[4,5-c]pyridinio)methyl}-3-cephem-4-carboxylate (Ia)
A mixture of benzhydryl 3-iodomethyl-7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate [VIIa] (1.50 g, 1.61 mmoles) and thiazolo[4,5-c]-pyridine (300 mg, 2.20 mmoles) in dry dimethylsulfoxide (DMSO) (7.5 mL) was stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate (20 mL), washed with water (5 mL), dried and evaporated to dryness. To a solution of the residue in CHCl3 (5 mL) was added ether (50 mL) to give the quaternized blocked cephalosporin [XIIIa] (1.7 g), which was collected by filtration and treated with 90% trifluoroacetic acid [TFA] (17 mL) at room temperature for 1 hour. After evaporation of the solvent, the residue was triturated with ether, filtered and dissolved in CH3OH (2 mL). The solution was treated with 1M sodium 2-ethylhexanoate [SEH] in ethyl acetate (3.2 mL) at room temperature for 30 minutes to afford 774 mg of the crude title compound (Ia), which was purified by HPLC (Column, Lichrosorb RP-18, 8×300 mm; eluted with 0.01M ammonium phosphate buffer, pH 7.2--15% CH3OH) and HP-20 column chromatography (3×30 cm, washed with 1 L of water and eluted with 700 mL of 30% CH3OH). The fractions containing the desired product were collected, concentrated and lyophilized to afford 180 mg (22%) of the title compound (Ia) as a colorless powder, mp 165° C. (dec.).

reactant | benzhydryl 3-iodomethyl-7-[(Z)-2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | 1.61 mmoles, 1.50 g | ICC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OC)=O)=O | C46H38IN5O5S2
reactant | thiazolo[4,5-c]-pyridine | 2.20 mmoles, 300 mg | S1C=NC=2C=NC=CC21 | C6H4N2S
solvent | dimethylsulfoxide | 7.5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-{(5-thiazolo[4,5-c]pyridinio)methyl}-3-cephem-4-carboxylate | 180 mg, 22% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC3=C(C=C2)SC=N3)C(=O)[O-])C1=O)=N/OC | C20H17N7O5S3
